US07521461B2
c) Methyl 2-{[2-(3-hydroxyphenyl)ethyl]thio}benzoate
Methyl 2-{[2-(3-tert-butoxyphenyl)ethyl]thio}benzoate (402 mg, 1.167 mmol) was dissolved in DCM (3 ml). Trifluoroacetic acid (3 ml) was added. The mixture was stirred overnight and then evaporated to dryness. Chromatography of the residue on a column (ISOLUTE® SI, 2 g/6 ml) using ethyl acetate/heptane (2.5:97.5, then 5:95, then 10:90 and then 25:75) as eluant gave 260 mg the desired product, yield 77%. 1H NMR (500 MHz, CDCl3): δ 2.94 (t, 2H), 3.17 (t, 2H), 3.95 (s, 3H), 6.18 (s, 1H) 6.77-6.83 (m, 3H), 7.18 (t, 2H), 7.34 (d, 1H), 7.44 (t, 1H) and 7.99 (d, 1H).

reactant | Methyl 2-{[2-(3-tert-butoxyphenyl)ethyl]thio}benzoate | 1.167 mmol, 402 mg | C(C)(C)(C)OC=1C=C(C=CC1)CCSC1=C(C(=O)OC)C=CC=C1 | C20H24O3S
reactant | Trifluoroacetic acid | 3 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | DCM | 3 ml | C(Cl)Cl | CH2Cl2
product | Methyl 2-{[2-(3-hydroxyphenyl)ethyl]thio}benzoate | 260 mg, yield 77% | OC=1C=C(C=CC1)CCSC1=C(C(=O)OC)C=CC=C1 | C16H16O3S
